US08865726B2
To (S)-1-(2-((R)-3-fluoropyrrolidin-1-yl)ethyl)-4-isopropyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one (0.025 g, 0.0394 mmol) was added trifluoroacetic acid (5 mL) and the reaction stirred for 2 hours at ambient temperature. The reaction was concentrated in vacuo and the material purified by reverse preparative HPLC to give (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-((R)-3-fluoropyrrolidin-1-yl)ethyl)-4-isopropylimidazolidin-2-one (0.0143 g, 0.0284 mmol, 72.0% yield) as the bis TFA salt. LCMS (APCI+) m/z 504 [M+H]+.

reactant | (S)-1-(2-((R)-3-fluoropyrrolidin-1-yl)ethyl)-4-isopropyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one | 0.0394 mmol, 0.025 g | F[C@H]1CN(CC1)CCN1C(N([C@H](C1)C(C)C)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)=O | C32H44FN9O2Si
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-3-(3-(4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-(2-((R)-3-fluoropyrrolidin-1-yl)ethyl)-4-isopropylimidazolidin-2-one | 0.0284 mmol, 0.0143 g, 72.0% yield | N1N=C(N=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(N(C[C@@H]2C(C)C)CCN2C[C@@H](CC2)F)=O | C26H30FN9O
